US09193693B2
Step 2. N-Methyl-2-phenylethanamine
Into a 250-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of LiAlH4 (868 mg, 22.84 mmol, 1.50 equiv) in tetrahydrofuran (70 mL). This was followed by the addition of a solution of N-phenethylformamide (2.27 g, 15.23 mmol, 1.00 equiv) in tetrahydrofuran (50 mL) dropwise with stiffing while the resulting solution maintained reflux. The resulting solution was stirred overnight at reflux in an oil bath. The reaction was then quenched by the addition of water. The resulting solution was extracted with 4×30 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (100:1). This resulted in 1.36 g (34%) of N-methyl-2-phenylethanamine as yellow oil.

reactant | LiAlH4 | 22.84 mmol, 868 mg, 1.50 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | N-phenethylformamide | 15.23 mmol, 2.27 g, 1.00 equiv | C(CC1=CC=CC=C1)NC=O | C9H11NO
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-Methyl-2-phenylethanamine | CNCCC1=CC=CC=C1 | C9H13N
